US05273680
To a mixture of 0.1 mol 4-pentyl-1-(2,3-difluorphenyl)-cyclohex-1-en and 500 ml toluene is added 0.22 mol 2,3-dichlor-5,6-dicyano-p-benzoquinone (DDQ) and refluxed for 2 h. After usual work-up 2',3'-difluorbiphenyl, bp: 125° C. at 0.5 mm Hg is obtained.

reactant | 4-pentyl-1-(2,3-difluorphenyl)-cyclohex-1-en | 0.1 mol | C(CCCC)C1CC=C(CC1)C1=C(C(=CC=C1)F)F | C17H22F2
reactant | 2,3-dichlor-5,6-dicyano-p-benzoquinone | 0.22 mol | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2',3'-difluorbiphenyl | FC1=C(C=CC=C1F)C1=CC=CC=C1 | C12H8F2
